US06582351B1
Sodium hydride (60% dispersion in mineral oil, 3.58g) was added portionwise to a solution 6-cyano-3-(trans-4-hydroxycyclohexyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one (21 g) in N,N-dimethylformamide (210 ml) at 0° C., and the mixture was stirred at ambient temperature for an hour. After adding 3-chloro-4-methoxybenzyl bromide (20.1 g) at ambient temperature, the reaction mixture was stirred at same temperature for 3 hours and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (twice). The combined organic layer was washed with water (twice) and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by a silica gel column chromatography eluting with 5% methanol in chloroform and crystallization from ethanol. The crude crystals were suspended in water (400 ml) and stirred at 65° C. for 14 hours to give 1-(3-chloro-4-methoxybenzyl)-6-cyano-3-(trans-4-hydroxycyclohexyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one (19.9 g) as a colorless solid.

reactant | Sodium hydride | 3.58g | [H-].[Na+]
reactant | 6-cyano-3-(trans-4-hydroxycyclohexyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one | 21 g | C(#N)C=1C=C2C(=NC1)N(C(N2)=O)[C@@H]2CC[C@H](CC2)O | C13H14N4O2
reactant | 3-chloro-4-methoxybenzyl bromide | 20.1 g | ClC=1C=C(CBr)C=CC1OC | C8H8BrClO
solvent | N,N-dimethylformamide | 210 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloro-4-methoxybenzyl)-6-cyano-3-(trans-4-hydroxycyclohexyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-2-one | 19.9 g | ClC=1C=C(CN2C(N(C3=NC=C(C=C32)C#N)[C@@H]3CC[C@H](CC3)O)=O)C=CC1OC | C21H21ClN4O3
